US07317032B2
A. (R)-N-[1-(4-Fluoro-benzyl)-2,5-dioxo-pyrrolidin-3-yl]-acetamide
Following the method of Witiak et al. (J. Med. Chem., 1971, 14(1), 24-30), N-acetyl-D-aspartic acid anhydride (2.19 g, 13.9 mmol) and para-fluorobenzylamine (1.74 g, 13.9 mmol) in acetone (12 mL) were heated together in a sealed tube at 100° C. for 1 h. The solvent was then removed under reduced pressure. Acetic anhydride (15 mL) was added to the residue and the mixture heated 50 min. at 100° C. The solvent was removed under reduced pressure and the residue purified by flash column chromatography (silica, 10% methanol in dichloromethane) to give the product as a foam (3.16 g, 85%). HPLC retention time 1.94 min.

reactant | N-acetyl-D-aspartic acid anhydride | 13.9 mmol, 2.19 g | C(C)(=O)N[C@@H]1CC(=O)OC1=O | C6H7NO4
reactant | para-fluorobenzylamine | 13.9 mmol, 1.74 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | (R)-N-[1-(4-Fluoro-benzyl)-2,5-dioxo-pyrrolidin-3-yl]-acetamide | 3.16 g, 85% | FC1=CC=C(CN2C([C@@H](CC2=O)NC(C)=O)=O)C=C1 | C13H13FN2O3
